US04234588
Ethyl 3-(6-methyl-3-pyridyl)propionate was formylated with ethyl formate and sodium hydride in 1,2-dimethoxyethane to give ethyl 2-formyl-3-(6-methyl-3-pyridyl)propionate m.p. 142°-144°.

reactant | Ethyl 3-(6-methyl-3-pyridyl)propionate | CC1=CC=C(C=N1)CCC(=O)OCC | C11H15NO2
reactant | ethyl formate | C(=O)OCC | C3H6O2
reactant | sodium hydride | [H-].[Na+]
solvent | 1,2-dimethoxyethane | COCCOC | C4H10O2
product | ethyl 2-formyl-3-(6-methyl-3-pyridyl)propionate | C(=O)C(C(=O)OCC)CC=1C=NC(=CC1)C | C12H15NO3
